US05250690
4-(2-Chloro-1,1-difluoroethoxy)benzeneamine
2.5 g (22.9 mmol) of p-aminophenol, 3.09 g (22.9 mmol) of 1,2-dichloro-1,1-difluoroethane, 5.48 g (39.6 mmol) of K2CO3 and 40 ml of dry acetonitrile were stirred together at room temperature for 5 days. The mixture was poured into water and extracted two times into ether. The combined ether extracts were washed with water, dried over MgSO4 and filtered: HCl gas was bubbled into the ether solution causing the above-named aniline to precipitate as the hydrochloride salt, which was collected by filtration and recrystallized twice from CH3CN to give 0.9 g (16 percent of theoretical d 245°-250° C.) of a white solid.

reactant | p-aminophenol | 22.9 mmol, 2.5 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | 1,2-dichloro-1,1-difluoroethane | 22.9 mmol, 3.09 g | ClC(CCl)(F)F | C2H2Cl2F2
reactant | K2CO3 | 39.6 mmol, 5.48 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-(2-Chloro-1,1-difluoroethoxy)benzeneamine | ClCC(OC1=CC=C(C=C1)N)(F)F | C8H8ClF2NO
